US04686237
1,3-Dimethoxynaphthalene
A solution of 32.1 g. (0.801 mole) of sodium hydroxide in 80.3 ml. of water and 96 g. (0.763 mole) of dimethyl sulfate are simultaneously added over a period of 30-45 minutes to g. (0.312 mole) of 1,3-dihydroxynaphthalene in 250 ml. of absolute ethanol stirred at -5°-0° C., the former being added slightly faster than the latter. The reaction mixture is allowed to gradually warm to 20°-25° C. with stirring over a 16 hour period. Most of the ethanol is evaporated at reduced pressure, water is added, and the mixture is extracted three times with methyl t-butyl ether. The extracts are combined, washed with 2N. aqueous sodium carbonate solution, dried over anhydrous sodium sulfate and evaporated to dryness at reduced pressure to obtain an oil. The oil is chromatographed on a Waters Prep-500 high pressure liquid chromatography apparatus having a silica gel column and utilizing 5% ethyl acetate/n-hexane as the eluant. The fractions containing the product are combined and evaporated at reduced pressure to obtain the product as a yellow oil (24.15 g.).

reactant | sodium hydroxide | 0.801 mole | [OH-].[Na+]
reactant | water | O | H2O
reactant | dimethyl sulfate | 0.763 mole | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 1,3-dihydroxynaphthalene | 0.312 mole | OC1=CC(=CC2=CC=CC=C12)O | C10H8O2
reactant | ethanol | C(C)O | C2H6O
product | 1,3-Dimethoxynaphthalene | 24.15 g | COC1=CC(=CC2=CC=CC=C12)OC | C12H12O2
